US06083961
A solution of 2-hydroxy-3-methoxybenzaldehyde (6.08 g), ethyl bromoacetate (4.9 ml) and potassium carbonate (12.14 g) in N,N-dimethylformamide (30 ml) was stirred for 2 hours at ambient temperature. Water was added to the reaction mixture, and the resulting precipitates were collected by filtration and recrystallized with ethanol to give 2-ethoxycarbonylmethoxy-3-methoxybenzaldehyde (5.04 g).

reactant | 2-hydroxy-3-methoxybenzaldehyde | 6.08 g | OC1=C(C=O)C=CC=C1OC | C8H8O3
reactant | ethyl bromoacetate | 4.9 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 12.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-ethoxycarbonylmethoxy-3-methoxybenzaldehyde | 5.04 g | C(C)OC(=O)COC1=C(C=O)C=CC=C1OC | C12H14O5
